US08048909B2
1-[(2-Methylphenyl)sulfonyl]-5-phenyl-1H-pyrrole-3-carbaldehyde
Using 2-methylbenzenesulfonyl chloride instead of tosyl chloride, a procedure as in Reference Example 4 was performed to synthesize ethyl 1-[(2-methylphenyl)sulfonyl]-5-phenyl-1H-pyrrole-3-carboxylate, and procedures as in Reference Examples 5 and 6 were sequentially performed to give the title compound as a colorless oil.

reactant | 2-methylbenzenesulfonyl chloride | CC1=C(C=CC=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | ethyl 1-[(2-methylphenyl)sulfonyl]-5-phenyl-1H-pyrrole-3-carboxylate | CC1=C(C=CC=C1)S(=O)(=O)N1C=C(C=C1C1=CC=CC=C1)C(=O)OCC | C20H19NO4S
product | 1-[(2-Methylphenyl)sulfonyl]-5-phenyl-1H-pyrrole-3-carbaldehyde | CC1=C(C=CC=C1)S(=O)(=O)N1C=C(C=C1C1=CC=CC=C1)C=O | C18H15NO3S
